US07700637B2
Di-t-butylazodicarboxylate (9.46 g, 41.08 mmol) is added to a stirred solution of triphenylphosphine (10.77 g, 41.08 mmol), 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethanol (7.35 g, 36.15 mmol) and methyl 4-hydroxybenzoate (5.0 g, 32.86 mmol) in toluene (120 mL) at 0° C. After stirring for 15 min, the ice-water bath is removed. Stirring is continued for 1 h at RT, 1 h at 40° C., and overnight at RT. The reaction is then concentrated under vacuum, and the residue is crystallized from EtOAc to give 5-methyl-2-phenyl-4-(2-p-tolyloxy-ethyl)-oxazole as a white solid.

reactant | triphenylphosphine | 41.08 mmol, 10.77 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethanol | 36.15 mmol, 7.35 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCO | C12H13NO2
reactant | methyl 4-hydroxybenzoate | 32.86 mmol, 5.0 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-2-phenyl-4-(2-p-tolyloxy-ethyl)-oxazole | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)C | C19H19NO2
